US06124283
4-(4-Benzylpiperazin-1-yl)benzonitrile
To a solution of 4-fluorobenzonitrile (3.0 g, 25 mmol) in N,N-dimethylformamide (15 mL) were added 1-benzylpiperazine (4.3 mL, 25 mmol) and potassium carbonate (3.4 g, 25 mmol). The reaction mixture was stirred at 120° C. for 13 h. The solvent was evaporated and the residue was partitioned between ethyl acetate (100 mL) and water (15 mL). The aqueous phase was extracted with ethyl acetate (30 mL) and the combined organic phases were washed twice with brine (10 mL) and dried (MgSO4). Evaporation of the solvent gave 7.6 g of crude product. Purification of the residue on a silica column using ethyl acetate/methylene chloride (1:9) as the eluent afforded 4.0 g (59% yield) of the title compound as a white solid: mp 104-105° C.; EIMS (70 eV) m/z (relative intensity) 277 (20, M+).

reactant | 4-fluorobenzonitrile | 25 mmol, 3.0 g | FC1=CC=C(C#N)C=C1 | C7H4FN
reactant | 1-benzylpiperazine | 25 mmol, 4.3 mL | C(C1=CC=CC=C1)N1CCNCC1 | C11H16N2
reactant | potassium carbonate | 25 mmol, 3.4 g | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 15 mL | CN(C=O)C | C3H7NO
product | 4-(4-Benzylpiperazin-1-yl)benzonitrile | 4.0 g, 59% yield | C(C1=CC=CC=C1)N1CCN(CC1)C1=CC=C(C#N)C=C1 | C18H19N3
